US03992440
To the solution of 1.52 g of 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid in 600 ml ofdimethylformamide, 40 g of butyraldehyde and 1.60 g of molecular sieves [Na12 (AlSiO4)12. 27 H2O], 36 g of sodium cyanoborohydride are added while stirring under nitrogen and keeping the temperature between about 20 and 30° for one hour. After stirring the mixture for 68 hours at room temperature, 6 lt of water are added, followed by 110 ml of concentrated hydrochloric acid and stirring is continued for one hour. The precipitate formed is filtered off, washed with water, dissolved in 1.2 lt of 2N aqueous sodium hydroxide and the solution refluxed for 2 hours under nitrogen. After cooling to room temperature it is filtered and the filtrate combined with 250 ml of glacial acetic acid. The precipitate formed is collected, 333 g thereof are dissolved in 2.8 lt of hot, 80% aqueous acetonitrile, the solution filtered, the filter washed with 500 ml more of said acetonitrile and the filtrate diluted with 3.3 lt of hot water. The precipitate formed at 14° is filtered off, taken up in 2.15 lt of hot, 90% aqueous ethanol and the solution diluted with 2.5 lt of hot water. The solids separated after cooling are collected and washed with water, to yield the 4-(4-aminophenylmercapto)-3-n-butylamino-5-sulfamoylbenzoic acid melting at 232°-234°it is identical with that obtained according to Example 3.

reactant | 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid | 1.52 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H15N3O5S2
reactant | butyraldehyde | 40 g | C(CCC)=O | C4H8O
reactant | sodium cyanoborohydride | 36 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | water | O | H2O
product | 4-(4-aminophenylmercapto)-3-n-butylamino-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCCCC | C17H21N3O4S2
